US04367332
To a solution of 4.0 g of arabinofuranosylcytosine dissolved in 50 ml of dimethylacetamide, there are added 5.0 g of triethylamine and 3.37 g of butyloxycarbonyl chloride. The reaction is carried out by stirring the mixture at room temperature for 3 hours. After completion of the reaction, the solvent is evaoprated under reduced pressure. The residue is diluted with 20 ml of ethanol, followed by addition of 150 ml of petroleum ether. After the mixture is stirred at 0° to 5° C. for one hour, the resultant precipitates are collected by filtration. The precipitates are dissolved in 15 ml of methanol and then 100 ml of water is added to the resultant solution. The mixture is left to stand in a refrigerator and the precipitated crystals are filtered to give 2.8 g of N4 -butyloxycarbonyl-1-β-D-arabinofuranosylcytosine (Yield:50%).

reactant | arabinofuranosylcytosine | 4.0 g | C1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
reactant | butyloxycarbonyl chloride | 3.37 g | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N4 -butyloxycarbonyl-1-β-D-arabinofuranosylcytosine | 2.8 g, Yield:50% | C(CCC)OC(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C14H21N3O7
